US06458781B1
Preparation of (S)-4-Methyl-2-morpholin-4-yl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride
(S)-4-Methyl-2-morpholin-4-yl-pentanoic acid (0.300 g, 1.49 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.779 mL, 4.47 mmol) and solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.565 g, 1.49 mmol). The resulting reaction mixture was stirred at that temperature for 30 minutes; solid 4,4-bis-(4-fluoro-phenyl)butylamine monohydrochloride (0.444 g, 1.49 mmol) was then added. After stirring for, sequentially, 10 minutes at 0° C. and 45 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4.The solution was concentrated in vacuo affording an viscous oil. The crude product was further purified by flash chromatography (70% EtOAc in hexane) and treated with ethereal HCl. Subsequent concentration in vacuo and drying under vacuum provided 0.55 g (75%) of the pure titled compound as a white foam; mp 63-78° C. APCI-MS m/z 445.4 (MH+).

reactant | (S)-4-Methyl-2-morpholin-4-yl-pentanoic acid | 1.49 mmol, 0.300 g | CC(C[C@@H](C(=O)O)N1CCOCC1)C | C10H19NO3
reactant | N,N-diisopropylethylamine | 4.47 mmol, 0.779 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.49 mmol, 0.565 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-bis-(4-fluoro-phenyl)butylamine monohydrochloride | 1.49 mmol, 0.444 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | (S)-4-Methyl-2-morpholin-4-yl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride | 0.55 g, 75% | Cl.FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)N1CCOCC1)=O)C1=CC=C(C=C1)F | InChI=1S/C26H34F2N2O2.ClH/c1-19(2)18-25(30-14-16-32-17-15-30)26(31)29-13-3-4-24(20-5-9-22(27)10-6-20)21-7-11-23(28)12-8-21;/h5-12,19,24-25H,3-4,13-18H2,1-2H3,(H,29,31);1H/t25-;/m0./s1
